US05262533
To a stirred solution of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(4'"-tert-butyldimethylsilyloxyphenyloxy)-3"-hydroxycyclohexyl)-1'-methylvinyl]23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (41.9 mg) in CH2Cl2 (1.5 mL.) at 0° C. was added a solution of p-toluenesulfonic acid in methanol (1.5 mL. of a 10% w/v solution). The mixture was stirred 3H at 0° C. and then 3H at room temperature. The reaction mixture was quenched with saturated aqueous NaHCO3 and extracted 4× with CH2Cl2. The organic extracts were combined and dried over anhydrous Na2SO4. The mixture was filtered and concentrated in vacuo. The product was isolated by preparative TLC on silica gel (eluted with 2:1 hexanes/acetone) affording 23.9 mg of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(4'"-hydroxyphenyloxy)-3"-hydroxycyclohexyl)-1'-methylvinyl] 23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone. (1H NMR and mass spectral analysis are consistent with the desired structure).

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(4'"-tert-butyldimethylsilyloxyphenyloxy)-3"-hydroxycyclohexyl)-1'-methylvinyl]23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 41.9 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC=C(C=C2)O[Si](C)(C)C(C)(C)C)O)C)C)O)=O | C54H85NO13Si
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(4'"-hydroxyphenyloxy)-3"-hydroxycyclohexyl)-1'-methylvinyl] 23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 23.9 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC=C(C=C2)O)O)C)C)O)=O | C48H71NO13
